US04703046
A solution of 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (660 mg.) and trimethylsilylacetamide (1.3 g.) in dry ethyl acetate (23 ml.) and a mixture of dimethylformamide (0.2 ml.), phosphoryl chloride (0.24 ml.), dry ethyl acetate (10 ml.) and 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 740 mg.) were treated in a similar manner to that of Example 1-(1) to give 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 520 mg.).

reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 660 mg | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C10H12N6O3S2
reactant | trimethylsilylacetamide | 1.3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | phosphoryl chloride | 0.24 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid | 740 mg | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC)Br | C7H6BrN3O4S
solvent | ethyl acetate | 23 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 520 mg | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)=NOC)Br | C17H16BrN9O6S3
